US08791107B2
3-((2-(1H-indol-4-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)methyl)benzonitrile
The title compound was prepared in a manner similar to EXAMPLE 3 using 3-((2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)methyl)benzonitrile (PREPARATION x14, 59 mg, 0.173 mmol), PdCl2(dppf) (6.32 mg, 8.63 μmol) and 1H-indol-4-ylboronic acid (55.6 mg, 0.345 mmol) in dioxane (2 mL) and aqueous saturated NaHCO3 (0.4 mL). 1H NMR (400 MHz, DMSO-d6) δ 3.16-3.32 (m, 3H), 3.55-3.66 (m, 2H), 3.92-4.06 (m, 2H), 4.07-4.16 (m, 1H), 4.57-4.78 (m, 3H), 6.96-7.07 (m, 1H), 7.20-7.32 (m, 1H), 7.40-7.48 (m, 1H), 7.52-7.69 (m, 4H), 7.71-7.84 (m, 2H), 7.85-7.93 (m, 1H), 11.45-11.59 (m, 1H). ESI-MS m/z [M+H]+ calc'd for C25H22N6O, 423.19. found 423.3.

reactant | 3-((2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)methyl)benzonitrile | 0.173 mmol, 59 mg | ClC1=NC=2N3C(CN(C2C=N1)CC=1C=C(C#N)C=CC1)COCC3 | C17H16ClN5O
reactant | 1H-indol-4-ylboronic acid | 0.345 mmol, 55.6 mg | N1C=CC2=C(C=CC=C12)B(O)O | C8H8BNO2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | NaHCO3 | 0.4 mL | C(=O)(O)[O-].[Na+]
catalyst | PdCl2(dppf) | 8.63 μmol, 6.32 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-((2-(1H-indol-4-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)methyl)benzonitrile | N1C=CC2=C(C=CC=C12)C1=NC=2N3C(CN(C2C=N1)CC=1C=C(C#N)C=CC1)COCC3 | C25H22N6O
